US06482852B2
(d) 5-Azido-2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene
To 2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol (14.2 g, 52.0 mmol) in toluene (100 mL) at 0° C. was added DBU (9.4 mL, 62.9 mmol) followed by diphenylphosphoryl azide (13.6 mL, 62.9 mmol). The mixture was allowed to stir for 18 h at rt, diluted with EtOAc, then washed successively with 1 N HCl, and water. The organic layer was dried over MgSO4, filtered, concentrated, and chomatographed over silica gel (5% EtOAc/hexane) to yield a 7:3 mixture of 5-azido-2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene/3-cyclohexylmethoxy-6,7-dihydro-5H-benzocycloheptene (12.6 g). This mixture was used without further purification in the next reaction.

reactant | 2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 52.0 mmol, 14.2 g | C1(CCCCC1)COC=1C=CC2=C(CCCCC2O)C1 | C18H26O2
reactant | DBU | 62.9 mmol, 9.4 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | diphenylphosphoryl azide | 62.9 mmol, 13.6 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 5-azido-2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene 3-cyclohexylmethoxy-6,7-dihydro-5H-benzocycloheptene | 12.6 g | N(=[N+]=[N-])C1CCCCC2=C1C=CC(=C2)OCC2CCCCC2.C1(CCCCC1)COC1=CC2=C(C=CCCC2)C=C1
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Azido-2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene | N(=[N+]=[N-])C1CCCCC2=C1C=CC(=C2)OCC2CCCCC2 | C18H25N3O
